US04847289
Step A: Preparation of 2-(4-methoxyphenylthio)-3-methylthiophene
To a stirred solution of 2-bromo-3-methylthiophene (23.0 g, 0.13 mol) in anhydrous ether (100 ml) cooled to -78° C. was added 1.6M n-butyl lithium in hexane (81.3 ml, 0.13 mol) dropwise over 1 hour. The solution was stirred at -78° C. for an additional 3/4 hour and a solution of 4-methoxyphenyl disulfide (38.14 g, 0.137 mol) in anhydrous ether (100 ml) was added rapidly. The temperature rose to 40° C. and then quickly dropped to -78° C. The mixture was stirred overnight as the temperature rose from -78° C. to ambient temperature. The suspension was cooled to -10° C. and 100 ml of water was added. The ether layer was separated and was washed with 0.5N KOH and with water, dried, filtered and concentrated in vacuo. The crude liquid residue was chromatographed on silica gel using 10% ethyl acetate hexane. This procedure gave 24.39 g of yellow liquid. N.M.R. supported the structure. Yield was 79%.

reactant | 2-bromo-3-methylthiophene | 0.13 mol, 23.0 g | BrC=1SC=CC1C | C5H5BrS
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | hexane | 0.13 mol, 81.3 ml | CCCCCC | C6H14
reactant | 4-methoxyphenyl disulfide | 0.137 mol, 38.14 g | COC1=CC=C(C=C1)SSC1=CC=C(C=C1)OC | C14H14O2S2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 2-(4-methoxyphenylthio)-3-methylthiophene | 24.39 g, Yield was 79% | COC1=CC=C(C=C1)SC=1SC=CC1C | C12H12OS2
